US09193744B2
NaBH4 (0.060 g, 1.6 mmol) was added in one portion to a solution of (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2 (9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2 (9H)-one (70, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.500 g, 1.09 mmol), THF (4.0 mL), and MeOH (8.0 mL). After about 30 min, the volatiles were removed under reduced pressure. Sat. aq. NH4Cl (20 mL), water (20 mL) and DCM (50 mL) were added. 2 M aq. HCl was added dropwise to adjust to about pH 1. After stirring vigorously for about 15 min, the layers were separated and the organic layer was washed with 40 mL of sat. aq. NaCl (40 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (80 g) using a gradient of 10-50% EtOAc in heptane. The fractions containing the first eluting diastereomer were combined and concentrated under reduced pressure to afford (2R,3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol; compound with (2S,3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol (71, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl, R3′=Hydroxyl, R3″═H) (0.270 g, 54% yield) as an ivory solid. LC/MS, method 2, Rt=2.84 min, MS m/z 463 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.28 (d, J=0.7 Hz, 1H), 7.84 (s, 1H), 7.84-7.76 (m, 2H), 7.60 (s, 1H), 7.46-7.35 (m, 2H), 5.37 (d, J=5.3 Hz, 1H), 5.30 (s, 1H), 3.99-3.90 (m, 1H), 3.38-3.23 (m, 1H), 2.96-2.85 (m, 1H), 2.46-2.29 (m, 2H), 2.07-1.73 (m, 4H), 1.73-1.63 (m, 1H), 1.63-1.45 (m, 3H), 1.44-1.27 (m, 1H), 0.53 (t, J=7.3 Hz, 3H). The fractions containing the second eluting diastereomer were combined and concentrated under reduced pressure to afford (2S,3 S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol; compound with (2R,3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol (71, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl, R3′═H, R3″=Hydroxyl) (0.171 g, 34% yield) as an ivory solid. LC/MS, method 2, Rt=2.61 min, MS m/z 463 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.30 (d, J=0.8 Hz, 1H), 7.82 (s, 1H), 7.89-7.75 (m, 2H), 7.55 (s, 1H), 7.46-7.35 (m, 2H), 5.82 (s, 1H), 5.16 (d, J=4.1 Hz, 1H), 3.89-3.78 (m, 1H), 3.21-3.08 (m, 1H), 2.99-2.88 (m, 1H), 2.36-2.26 (m, 1H), 2.21-2.08 (m, 2H), 2.03-1.93 (m, 1H), 1.89-1.58 (m, 6H), 1.43-1.25 (m, 1H), 0.45 (t, J=7.3 Hz, 3H).

reactant | NaBH4 | 1.6 mmol, 0.060 g | [BH4-].[Na+]
reactant | (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2 (9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2 (9H)-one | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@@](C(C2)=O)(C(F)(F)F)O.C(C)[C@@]23[C@H](CCCC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@](C(C3)=O)(C(F)(F)F)O | 2C25H24F4N2O2
reactant | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 8.0 mL | CO | CH4O
product | (2R,3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol; compound with (2S,3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol | 54% yield | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@]([C@H](C2)O)(O)C(F)(F)F.C(C)[C@@]23[C@H](CCCC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@@]([C@@H](C3)O)(O)C(F)(F)F | 2C25H26F4N2O2
